US09388195B2
B) Production of 6-bromo-2-(cyclopentylmethyl)thieno[3,2-d]pyrimidin-4 (3H)-one
To 5-bromo-3-[(cyclopentylacetyl)amino]thiophene-2-carboxamide (290 mg) were added 2M aqueous sodium hydroxide solution (1.75 mL) and ethanol (3.0 mL), and the mixture was stirred at 70° C. for 2 hr. The reaction system was neutralized with 1M hydrochloric acid at 0° C. Water (2 mL) was added, and the precipitate was collected by filtration to give the title compound (165 mg) as a white solid.

reactant | 5-bromo-3-[(cyclopentylacetyl)amino]thiophene-2-carboxamide | 290 mg | BrC1=CC(=C(S1)C(=O)N)NC(CC1CCCC1)=O | C12H15BrN2O2S
reactant | sodium hydroxide | 2M, 1.75 mL | [OH-].[Na+]
reactant | ethanol | 3.0 mL | C(C)O | C2H6O
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | Water | 2 mL | O | H2O
product | 6-bromo-2-(cyclopentylmethyl)thieno[3,2-d]pyrimidin-4 (3H)-one | 165 mg | BrC1=CC=2N=C(NC(C2S1)=O)CC1CCCC1 | C12H13BrN2OS
